US07595359B2
a) 2-Bromo-N-(3-dimethylamino-propyl)-2-methyl-propionamide
To a solution of 3-dimethylaminopropylamine (25 ml, 0.1 mol) in THF (50 ml) was added dropwise over 50 minutes and while keeping the temperature between 0-10° C. bromoisobutyroyl bromide (23.0 g, 0.1 mol). The mixture is stirred for another 3 h at room temperature and the THF is then evaporated in vacuo. Water (20 ml) is added to the residue and the mixture is extracted with t-butyl-methyl ether (2×30 ml) and ethylacetate (30 ml).

reactant | 3-dimethylaminopropylamine | 0.1 mol, 25 ml | CN(CCCN)C | C5H14N2
reactant | bromoisobutyroyl bromide | 0.1 mol, 23.0 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-Bromo-N-(3-dimethylamino-propyl)-2-methyl-propionamide | BrC(C(=O)NCCCN(C)C)(C)C | C9H19BrN2O
